US09399077B2
Step 4: ({[4-(tert-butoxycarbonyl)phenyl]methyl}cyclopentadienyl)benzenedithiolate (pentamethylcyclopentadienyl)titanium
The reaction was performed as described in Example 1, step 4, starting from ({[4-(tert-butoxycarbonyl)phenyl]methyl}cyclopentadienyl)dichloro(pentamethylcyclopentadienyl)titanium; i.e. reaction of the alkylated titanocene dichloride with benzenedithiol.

reactant | ({[4-(tert-butoxycarbonyl)phenyl]methyl}cyclopentadienyl)dichloro(pentamethylcyclopentadienyl)titanium | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC1(C=CC=C1)[Ti](C1(C(=C(C(=C1C)C)C)C)C)(Cl)Cl
reactant | benzenedithiol | C=1(C(=CC=CC1)S)S | C6H6S2
product | ({[4-(tert-butoxycarbonyl)phenyl]methyl}cyclopentadienyl)benzenedithiolate (pentamethylcyclopentadienyl)titanium | CC1=C(C(=C(C1(C)[Ti+3])C)C)C.C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC1(C=CC=C1)C1=C(C(=CC=C1)[S-])[S-].C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC1(C=CC=C1)C1=C(C(=CC=C1)[S-])[S-].C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC1(C=CC=C1)C1=C(C(=CC=C1)[S-])[S-].CC1=C(C(=C(C1(C)[Ti+3])C)C)C | InChI=1S/3C23H24O2S2.2C10H15.2Ti/c3*1-22(2,3)25-21(24)17-11-9-16(10-12-17)15-23(13-4-5-14-23)18-7-6-8-19(26)20(18)27;2*1-6-7(2)9(4)10(5)8(6)3;;/h3*4-14,26-27H,15H2,1-3H3;2*1-5H3;;/q;;;;;2*+3/p-6
